US07932272B2
N*4*-(4-Benzyloxy-benzyl)-pyrido[2,3-d]pyrimidine-2,4-diamine
To a mixture of 2-amino-N-(4-benzyloxy-benzyl)-thionicotinamide described in Example A-22 (30 mg, 0.083 mmol) and toluene (1 mL) was added benzyl bromide (0.044 mL, 0.37 mmol), and the solution was refluxed for 3 hours. After cooling, the solvent was evaporated in vacuo, and the residue was washed with diethyl ether twice. A mixture of a portion (13 mg) of the resulting crude product (33 mg), cyanamide (20 mg, 0.48 mmol) and N-methylpyrrolidinone (1 mL) was stirred for 2 hours at 120° C. After cooling, the reaction solution was directly purified by reverse phase high performance liquid chromatography (acetonitrile-water mobile phase (containing 0.1% trifluoroacetic acid) was used), and ditrifluoroacetic acid salt of the title compound (0.75 mg, 0.0013 mmol, 4.2%) was obtained.

reactant | 2-amino-N-(4-benzyloxy-benzyl)-thionicotinamide | NC1=C(C(=S)NCC2=CC=C(C=C2)OCC2=CC=CC=C2)C=CC=N1 | C20H19N3OS
reactant | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
reactant | benzyl bromide | 0.37 mmol, 0.044 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | cyanamide | 0.48 mmol, 20 mg | N#CN | CH2N2
solvent | acetonitrile water | C(C)#N.O
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | N-methylpyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | N*4*-(4-Benzyloxy-benzyl)-pyrido[2,3-d]pyrimidine-2,4-diamine | 0.0013 mmol, 0.75 mg, 4.2% | C(C1=CC=CC=C1)OC1=CC=C(CNC=2C3=C(N=C(N2)N)N=CC=C3)C=C1 | C21H19N5O
